US06444672B1
To a solution of 1.92 g 1-(1,1-dimethylethyloxycarbonyl)piperazine in 11 mL of dichloromethane and 1.5 mL of triethylamine at room temperature was added dropwise 1 mL of dimethylcarbamylchloride. After 16 hours 5% aqueous sodium hydrogencarbonate and dichloromethane were added, the organic layer separated, dried over magnesium sulfate and concentrated. Column chromatography on silica gel (dichloromethane/methanol=95/5 v/v) yielded 1.34 g 1-1,1-dimethylethyloxycarbonyl)-4-(dimethylaminocarbonyl)piperazine. This compound was dissolved in a 3N hydrogen chloride solution in methanol at 0° C. After 15 min the reaction mixture was allowed to warm to room temperature and After stirring for 3 days at room temperature the reaction mixture was concentrated to give 1.06 g of 1-(dimethylaminocarbonyl)piperazine hydrochloride. rf=0.29, SiO2: dichloromethane/methanol=4/1 v/v.

reactant | 1-(1,1-dimethylethyloxycarbonyl)piperazine | 1.92 g | CC(C)(OC(=O)N1CCNCC1)C | C9H18N2O2
reactant | dimethylcarbamylchloride | 1 mL | CN(C(=O)Cl)C | C3H6ClNO
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 11 mL | ClCCl | CH2Cl2
solvent | triethylamine | 1.5 mL | C(C)N(CC)CC | C6H15N
product | 4-(dimethylaminocarbonyl)piperazine | CN(C(=O)N1CCNCC1)C | C7H15N3O
